US04069319
72 g of 2,4-dichlorobenzyl chloride were added at 30° C to a mixture of 69.9 g of dipotassium N-cyanodithioimidocarbonate, 50 ml of water and 300 ml of methanol and the mixture was stirred at 30° C. for one-half hour. The methanol was evaporated under reduced pressure and 900 ml of water were added to the residue. 40 ml of 30% hydrogen peroxide were slowly added and the pH was kept basic by addition of potassium hydroxide. the mixture was stirred for 17 hours, was washed with ethyl acetate and was acidified with hydrochloric acid. The mixture was vacuum filtered and the precipitate was crystallized from toluene to obtain 32 g of 3-hydroxy-5-(2,4-dichlorobenzylthio)-1,2,4-thiadiazole melting at 134° C.

reactant | 2,4-dichlorobenzyl chloride | 72 g | ClC1=C(CCl)C=CC(=C1)Cl | C7H5Cl3
reactant | dipotassium N-cyanodithioimidocarbonate | 69.9 g | C(#N)N=C([S-])[S-].[K+].[K+]
reactant | water | 50 ml | O | H2O
solvent | methanol | 300 ml | CO | CH4O
product | 3-hydroxy-5-(2,4-dichlorobenzylthio)-1,2,4-thiadiazole | 32 g | OC1=NSC(=N1)SCC1=C(C=C(C=C1)Cl)Cl | C9H6Cl2N2OS2
